US07566724B2
In the same manner as in Reference Example 24-(1), 4-iodoaniline (220 mg) and 2-chloro-4,6-dimethoxypyrimidine (200 mg) were reacted in the presence of sodium hydride to obtain N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine (141 mg). (2) In the same manner as in Reference Example 24-(2), sodium hydride (16 mg), N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine (140 mg) and methyl iodide (0.024 ml) were reacted to obtain N-(4-iodophenyl)-4,6-dimethoxy-N-methylpyrimidin-2-amine (118 mg).

reactant | 4-iodoaniline | 220 mg | IC1=CC=C(N)C=C1 | C6H6IN
reactant | 2-chloro-4,6-dimethoxypyrimidine | 200 mg | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
reactant | sodium hydride | [H-].[Na+]
product | N-(4-iodophenyl)-4,6-dimethoxypyrimidin-2-amine | 141 mg | IC1=CC=C(C=C1)NC1=NC(=CC(=N1)OC)OC | C12H12IN3O2
